US07223769B2
In 2 ml of tetrahydrofuran was suspended 0.03 g of sodium hydride (60% in oil), to which 0.3 ml of a solution containing 0.05 g of 2-butyn-1-ol in tetrahydrofuran was added dropwise at room temperature, followed by stirring for 10 minutes. To this was added dropwise 0.3 ml of a solution containing 0.10 g of 4-chloro-6-[1-(1-methylcyclopropyl)ethyloxy]pyrimidine in tetrahydrofuran, followed by stirring at room temperature for 3 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.09 g of 4-(2-butynyloxy)-6-[1-(1-methylcyclopropyl)ethyloxy]pyrimidine (the present compound (8)).

reactant | sodium hydride | 0.03 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.05 g | C(C#CC)O | C4H6O
reactant | 4-chloro-6-[1-(1-methylcyclopropyl)ethyloxy]pyrimidine | 0.10 g | ClC1=NC=NC(=C1)OC(C)C1(CC1)C | C10H13ClN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-[1-(1-methylcyclopropyl)ethyloxy]pyrimidine | 0.09 g | C(C#CC)OC1=NC=NC(=C1)OC(C)C1(CC1)C | C14H18N2O2
